US05834463
(3aR*,10aS*)-4-(phthalimidoacetyl)-9-(3,5,6-trimethyl-1,4-benzoquinon-2-ylmethyl)-2,3,3a,4,9,10a-hexahydrobenzo[b]cyclopenta[e][1,4]diazepin-10(1H)-one
In a mixture of acetonitrile (3 mL) and water (2 mL) was suspended (3aR*,10aS*)-9-(2,5-dimethoxy-3,4,6-trimethylbenzyl)-4-(phthalimidoacetyl)-2,3,3a,4,9,10a-hexahydrobenzo[b]cyclopenta[e][1,4]diazepin-10(1H)-one (0.5 g, 0.86 mmol). To the suspension was added, while stirring, a solution of ammonium cerium (IV) nitrate (1.4 g, 2.55 mmol) in a mixture of acetonitrile (2 mL) and water (2 mL). The reaction mixture was stirred for one hour, which was diluted with water, followed by extraction with chloroform. The extract was washed with water and dried, then the solvent was distilled off. The residue was crystallized from ethyl acetate to give 300 mg (yield 63%) of the titled compound, m.p. 258°-260° C.

reactant | (3aR*,10aS*)-9-(2,5-dimethoxy-3,4,6-trimethylbenzyl)-4-(phthalimidoacetyl)-2,3,3a,4,9,10a-hexahydrobenzo[b]cyclopenta[e][1,4]diazepin-10(1H)-one | 0.86 mmol, 0.5 g | COC1=C(CN2C3=C(N([C@H]4[C@@H](C2=O)CCC4)C(CN4C(C=2C(C4=O)=CC=CC2)=O)=O)C=CC=C3)C(=C(C(=C1C)C)OC)C | C34H35N3O6
reactant | ammonium cerium (IV) nitrate | 2.55 mmol, 1.4 g | [N+](=O)([O-])[O-].[Ce+4].[NH4+].[N+](=O)([O-])[O-].[N+](=O)([O-])[O-].[N+](=O)([O-])[O-].[N+](=O)([O-])[O-]
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
solvent | water | 2 mL | O | H2O
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
solvent | water | 2 mL | O | H2O
product | (3aR*,10aS*)-4-(phthalimidoacetyl)-9-(3,5,6-trimethyl-1,4-benzoquinon-2-ylmethyl)-2,3,3a,4,9,10a-hexahydrobenzo[b]cyclopenta[e][1,4]diazepin-10(1H)-one | 300 mg, yield 63% | C1(C=2C(C(N1CC(=O)N1C3=C(N(C([C@@H]4[C@H]1CCC4)=O)CC=4C(C(=C(C(C4C)=O)C)C)=O)C=CC=C3)=O)=CC=CC2)=O | C32H29N3O6
